US07812043B2
1-Cyclopropylmethyl-6-hydroxymethyl-1H-indole-3-carboxylic acid (5-methyl-thiazol-2-yl)-amide
The compound was prepared according to the procedure given for 1-Cyclopropylmethyl-6-hydroxymethyl-1H-indole-3-carboxylic acid thiazol-2-ylamide using 2-amino-5-methyl-thiazole.

reactant | 1-Cyclopropylmethyl-6-hydroxymethyl-1H-indole-3-carboxylic acid thiazol-2-ylamide | S1C(=NC=C1)NC(=O)C1=CN(C2=CC(=CC=C12)CO)CC1CC1 | C17H17N3O2S
reactant | 2-amino-5-methyl-thiazole | NC=1SC(=CN1)C | C4H6N2S
product | 1-Cyclopropylmethyl-6-hydroxymethyl-1H-indole-3-carboxylic acid (5-methyl-thiazol-2-yl)-amide | CC1=CN=C(S1)NC(=O)C1=CN(C2=CC(=CC=C12)CO)CC1CC1 | C18H19N3O2S
